US08003783B2
STX321 3-Hydroxy-13-methyl-16-pyridin-4-ylmethylene-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one (CAB01154):
Sodium hydroxide (1.0 g, 25 mmol) was added to a suspension of estrone (1.35 g, 5.0 mmol) and pyridine-4-carbaldehyde (595 mg, 5.0 mmol) in ethanol (40 mL) at room temperature. The resulting dark orange solution was stirred at room temperature for 4 hours. Then glacial acetic (ca. 10 mL) acid was added with stirring. The colour changed to light yellow and a light yellow solid precipitated. The solid was filtered off and washed with water (50 mL), ethanol (20 mL), diethyl ether (50 mL) and hexane (50 mL) and dried under high vacuum. Yield: 1.588 g (88%) light yellow solid. 1H-NMR (DMSO-d6, 400 MHz), δ: 0.92 (s, 3H, —CH3), 1.30-1.68 (m, 5H), 1.82-1.92 (m, 1H), 1.96-2.04 (m, 1H), 2.14-2.24 (m, 1H), 2.31-2.38 (m, 1H), 2.61-2.69 (m, 1H), 2.71-2.84 (m, 2H), 2.87-2.96 (m, 1H), 6.47 (d, J=2.3 Hz, 1H), 6.53 (dd, J=8.6, 2.3 Hz, 1H), 7.06 (d, J=8.6 Hz, 1H), 7.28 (s, 1H), 7.60 (d, J=6.2 Hz, 2H), 8.65 (d, J=6.2 Hz, 2H), 9.05 (s, 1H, —OH). LRMS (FAB+): 360.2 (100, [M+H]+). LRMS (FAB−): 358.2 (100, [M−H]−). HRMS (FAB+): 360.196986 C24H26NO2 requires 360.196354.

reactant | Sodium hydroxide | 25 mmol, 1.0 g | [OH-].[Na+]
reactant | estrone | 5.0 mmol, 1.35 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | pyridine-4-carbaldehyde | 5.0 mmol, 595 mg | N1=CC=C(C=C1)C=O | C6H5NO
reactant | acetic | ca. 10 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-Hydroxy-13-methyl-16-pyridin-4-ylmethylene-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one | OC=1C=CC=2C3CCC4(C(C(CC4C3CCC2C1)=CC1=CC=NC=C1)=O)C | C24H25NO2
